US08633207B2
To a mixture of 2-bromo-5-fluoropyridine (2 g, 11.36 mmol) and ethyl 2-bromo-2,2-difluoroacetate (1.6 mL, 12.5 mmol) in DMSO (4 mL) was added copper powder (1.6 g, 24.98 mmol) and the mixture was stirred at 50° C. overnight in a sealed flask. The mixture was diluted with DMSO (10 mL) and filtered through Celite. Then water and EtOAc were added and the mixture was shaken and again filtered through Celite. The organic layer was washed with water (1×) and brine (1×) and dried over sodium sulfate, and concentrated to afford ethyl 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetate as a yellow oil (1.5 g, 60%). 1H NMR (300 MHz, CDCl3) δ 1.34 (t, 3H), 4.38 (q, 2H), 7.56 (dt, 1H), 7.77 (dd, 1H), 8.50 (d, 1H).

reactant | 2-bromo-5-fluoropyridine | 11.36 mmol, 2 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | ethyl 2-bromo-2,2-difluoroacetate | 12.5 mmol, 1.6 mL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | copper | 24.98 mmol, 1.6 g | [Cu] | Cu
product | ethyl 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetate | 1.5 g, 60% | FC(C(=O)OCC)(C1=NC=C(C=C1)F)F | C9H8F3NO2
